DISGPUVoltageStackingPDN.cir

*On-Chip-1st-Plane
R1000000001_1000001001 1000000001 1000001001 2.500000e-02
L1000001001_1000002001 1000001001 1000002001 2.911707e-15
R1000002001_1000003001 1000002001 1000003001 2.500000e-02
L1000003001_1000004001 1000003001 1000004001 2.911707e-15
R1000000001_1001000001 1000000001 1001000001 2.500000e-02
L1001000001_1002000001 1001000001 1002000001 2.911707e-15
R1000002001_1001002001 1000002001 1001002001 2.500000e-02
L1001002001_1002002001 1001002001 1002002001 2.911707e-15
R1000004001_1001004001 1000004001 1001004001 2.500000e-02
L1001004001_1002004001 1001004001 1002004001 2.911707e-15

*On-Chip-2nd-Plane
R1000000002_1000001002 1000000002 1000001002 2.500000e-02
L1000001002_1000002002 1000001002 1000002002 2.911707e-15
R1000002002_1000003002 1000002002 1000003002 2.500000e-02
L1000003002_1000004002 1000003002 1000004002 2.911707e-15
R1000000002_1001000002 1000000002 1001000002 2.500000e-02
L1001000002_1002000002 1001000002 1002000002 2.911707e-15
R1000002002_1001002002 1000002002 1001002002 2.500000e-02
L1001002002_1002002002 1001002002 1002002002 2.911707e-15
R1000004002_1001004002 1000004002 1001004002 2.500000e-02
L1001004002_1002004002 1001004002 1002004002 2.911707e-15

*On-Chip-3rd-Plane
R1000000003_1000001003 1000000003 1000001003 2.500000e-02
L1000001003_1000002003 1000001003 1000002003 2.911707e-15
R1000002003_1000003003 1000002003 1000003003 2.500000e-02
L1000003003_1000004003 1000003003 1000004003 2.911707e-15
R1000000003_1001000003 1000000003 1001000003 2.500000e-02
L1001000003_1002000003 1001000003 1002000003 2.911707e-15
R1000002003_1001002003 1000002003 1001002003 2.500000e-02
L1001002003_1002002003 1001002003 1002002003 2.911707e-15
R1000004003_1001004003 1000004003 1001004003 2.500000e-02
L1001004003_1002004003 1001004003 1002004003 2.911707e-15

*On-Chip-4th-Plane
R1000000004_1000001004 1000000004 1000001004 2.500000e-02
L1000001004_1000002004 1000001004 1000002004 2.911707e-15
R1000002004_1000003004 1000002004 1000003004 2.500000e-02
L1000003004_1000004004 1000003004 1000004004 2.911707e-15
R1000000004_1001000004 1000000004 1001000004 2.500000e-02
L1001000004_1002000004 1001000004 1002000004 2.911707e-15
R1000002004_1001002004 1000002004 1001002004 2.500000e-02
L1001002004_1002002004 1001002004 1002002004 2.911707e-15
R1000004004_1001004004 1000004004 1001004004 2.500000e-02
L1001004004_1002004004 1001004004 1002004004 2.911707e-15

*Power-Delivery-for-1st-plane
R100_1000 100 1000 2.001600e-02
L1000_1000000001 1000 1000000001 3.600000e-11
R100_1001 100 1001 2.001600e-02
L1001_1000002001 1001 1000002001 3.600000e-11
R100_1002 100 1002 2.001600e-02
L1002_1000004001 1002 1000004001 3.600000e-11
R100_1003 100 1003 2.001600e-02
L1003_1002000001 1003 1002000001 3.600000e-11
R100_1004 100 1004 2.001600e-02
L1004_1002002001 1004 1002002001 3.600000e-11
R100_1005 100 1005 2.001600e-02
L1005_1002004001 1005 1002004001 3.600000e-11

*Load-Between-1st-2nd-plane
C1000000001_1000000002 1000000001 1000000002 2.305556e-09
C1000002001_1000002002 1000002001 1000002002 2.305556e-09
C1000004001_1000004002 1000004001 1000004002 2.305556e-09
C1002000001_1002000002 1002000001 1002000002 2.305556e-09
C1002002001_1002002002 1002002001 1002002002 2.305556e-09
C1002004001_1002004002 1002004001 1002004002 2.305556e-09
r1000000001_1000000002 1000000001 1000000002 0.02
r1000002001_1000002002 1000002001 1000002002 0.02
r1000004001_1000004002 1000004001 1000004002 0.02
r1002000001_1002000002 1002000001 1002000002 0.02
r1002002001_1002002002 1002002001 1002002002 0.02
r1002004001_1002004002 1002004001 1002004002 0.02

*Load-Between-2nd-3rd-plane
C1000000002_1000000003 1000000002 1000000003 2.305556e-09
C1000002002_1000002003 1000002002 1000002003 2.305556e-09
C1000004002_1000004003 1000004002 1000004003 2.305556e-09
C1002000002_1002000003 1002000002 1002000003 2.305556e-09
C1002002002_1002002003 1002002002 1002002003 2.305556e-09
C1002004002_1002004003 1002004002 1002004003 2.305556e-09
r1000000002_1000000003 1000000002 1000000003 0.02
r1000002002_1000002003 1000002002 1000002003 0.02
r1000004002_1000004003 1000004002 1000004003 0.02
r1002000002_1002000003 1002000002 1002000003 0.02
r1002002002_1002002003 1002002002 1002002003 0.02
r1002004002_1002004003 1002004002 1002004003 0.02

*Load-Between-3rd-4th-plane
C1000000003_1000000004 1000000003 1000000004 2.305556e-09
C1000002003_1000002004 1000002003 1000002004 2.305556e-09
C1000004003_1000004004 1000004003 1000004004 2.305556e-09
C1002000003_1002000004 1002000003 1002000004 2.305556e-09
C1002002003_1002002004 1002002003 1002002004 2.305556e-09
C1002004003_1002004004 1002004003 1002004004 2.305556e-09
r1000000003_1000000004 1000000003 1000000004 0.02
r1000002003_1000002004 1000002003 1000002004 0.02
r1000004003_1000004004 1000004003 1000004004 0.02
r1002000003_1002000004 1002000003 1002000004 0.02
r1002002003_1002002004 1002002003 1002002004 0.02
r1002004003_1002004004 1002004003 1002004004 0.02

*Power-Delivery-for-4th-plane
R0_2000 0 2000 2.001600e-02
L2000_1000000004 2000 1000000004 3.600000e-11
R0_2001 0 2001 2.001600e-02
L2001_1000002004 2001 1000002004 3.600000e-11
R0_2002 0 2002 2.001600e-02
L2002_1000004004 2002 1000004004 3.600000e-11
R0_2003 0 2003 2.001600e-02
L2003_1002000004 2003 1002000004 3.600000e-11
R0_2004 0 2004 2.001600e-02
L2004_1002002004 2004 1002002004 3.600000e-11
R0_2005 0 2005 2.001600e-02
L2005_1002004004 2005 1002004004 3.600000e-11

.MODEL switch1 SW (RON=0.001 ROFF=1e3 VT=0.99 VH=0)

*SM2 IVR
*Phase-1-Switches
*switch2_1_1 1000002001 30000021 phase1 0 switch1 off
*R2_1_1 30000021 3000002 1e-3
*switch2_1_2 1000002002 30010021 phase1 0 switch1 off
*R2_1_2 30010021 3001002 1e-3
*switch2_1_3 1000002003 30020021 phase1 0 switch1 off
*R2_1_3 30020021 3002002 1e-3
*switch2_1_4 1000002002 40000021 phase1 0 switch1 off
*R2_1_4 40000021 4000002 1e-3
*switch2_1_5 1000002003 40010021 phase1 0 switch1 off
*R2_1_5 40010021 4001002 1e-3
*switch2_1_6 1000002004 40020021 phase1 0 switch1 off
*R2_1_6 40020021 4002002 1e-3
*Phase-2-Switches
*switch2_2_1 1000002002 30000021 phase2 0 switch1 off
*R2_2_1 30000021 3000002 1e-3
*switch2_2_2 1000002003 30010021 phase2 0 switch1 off
*R2_2_2 30010021 3001002 1e-3
*switch2_2_3 1000002004 30020021 phase2 0 switch1 off
*R2_2_3 30020021 3002002 1e-3
*switch2_2_4 1000002001 40000021 phase2 0 switch1 off
*R2_2_4 40000021 4000002 1e-3
*switch2_2_5 1000002002 40010021 phase2 0 switch1 off
*R2_2_5 40010021 4001002 1e-3
*R2_2_6 40020021 4002002 1e-3
*switch2_2_6 1000002003 40020021 phase2 0 switch1 off
*Left-Capacitors
*C3000002_3001002 3000002 3001002 1.001e-6
*C3001002_3002002 3001002 3002002 1.001e-6
*Right-Capacitors
*C4000002_4001002 4000002 4001002 1.001e-6
*C4001002_4002002 4001002 4002002 1.001e-6



*V_phase1 phase1 0 pulse(0 1 0 1ps 1ps 5ns 10ns)
*V_phase2 phase2 0 pulse(0 1 50ns 1ps 1ps 5ns 10ns)

*Source
VIN 60 0 DC 3.3

*PCB and Package
R60_70 60 70 0.1e-3
L70_80 70 80 21e-12
R0_71 0 71 0.1e-3
L71_82 71 82 21e-12
R80_81 80 81 0.27e-3
C81_82 81 82 240e-6
R80_90 80 90 0.55e-3
L90_100 90 100 60e-12
R82_91 82 91 0.27e-3
L91_103 91 103 60e-12
R100_101 100 101 10e-3
L101_102 101 102 2.8e-12
C102_103 102 103 52e-6


.option trtol=1 sparse method=gear reltol=1m

.tran 14PS 100US uic

.END
